US04349552
1-[N-(2-Adamantylmethyl)carbamoyl]-5-fluorouracil
The reaction of 2-adamantylacetic acid and diphenyl phosphoryl azide in dry pyridine provided a solution comprising 2-adamantylmethyl isocyanate [I.R.: 2260 cm-1 ], which was reacted with 5-fluorouracil to provide 1-[N-(2-adamantylmethyl)carbamoyl]-5-floururacil substantially in the similar method to that of Example 45.

reactant | 2-adamantylacetic acid | C12C(C3CC(CC(C1)C3)C2)CC(=O)O | C12H18O2
reactant | diphenyl phosphoryl azide | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2-adamantylmethyl isocyanate | C12C(C3CC(CC(C1)C3)C2)CN=C=O | C12H17NO
reactant | 5-fluorouracil | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-[N-(2-Adamantylmethyl)carbamoyl]-5-fluorouracil | C12C(C3CC(CC(C1)C3)C2)CNC(=O)N2C(=O)NC(=O)C(=C2)F | C16H20FN3O3
